US07714004B2
Preparation of 4-methyl-1H-indol-5-ol
5-Methoxy-4-methyl-1H-indole (400.0 mg, 2.48 mmol) was dissolved in CH2Cl2 in an inert atmosphere, and the mixture was cooled to 5° C. Aluminium trichloride (1.65 g, 12.4 mmol) was added, and the reaction mixture was stirred for 5 min, at which point ethanethiol (770.8 mg, 12.4 mmol) was added dropwise. Stirring was continued for 2 h at 5° C. The mixture was poured into ice water (10 mL), stirred for 20 min, and then NaHCO3 was added until a pH>7 was reached. The mixture was extracted with CH2Cl2 (4×), the combined organic phases dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (EtOAc/hexane (v/v) 1:5) to give 133 mg (36%) of the title compound as a white crystalline solid. 1H NMR (400 MHz, CDCl3): 2.46 (s, 3H), 4.40 (br, 1H), 6.49 (s, 1H), 6.76 (d, 1H), 7.10 (d, 1H), 7.19 (s, 1H), 8.03 (br, 1H).

reactant | 5-Methoxy-4-methyl-1H-indole | 2.48 mmol, 400.0 mg | COC=1C(=C2C=CNC2=CC1)C | C10H11NO
reactant | Aluminium trichloride | 12.4 mmol, 1.65 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethanethiol | 12.4 mmol, 770.8 mg | C(C)S | C2H6S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-methyl-1H-indol-5-ol | 133 mg, 36% | CC1=C2C=CNC2=CC=C1O | C9H9NO
